US08404676B2
Step 2: 3-Methyl-4-piperidin-1-ylbenzoic acid
Lithium hydroxide (2.5 g; 103 mmol; 5 eq.) was added to a solution of methyl 3-methyl-4-piperidin-1-ylbenzoate (4.8 g; 20.6 mmol; 1 eq.) in THF (100 mL) and water (5 mL) and the reaction mixture was stirred at 50° C. for 12 hours. The solvent was removed in vacuo, the residue diluted with water and the aqueous layer washed with DCM (2×50 mL). The aqueous layer was acidified to pH 4 with conc. HCl and extracted with ethyl acetate (2×100 mL). The combined organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo to afford the title compound (4.0 g, 89%) as a yellow solid.

reactant | Lithium hydroxide | 103 mmol, 2.5 g, 5 eq. | [OH-].[Li+]
reactant | methyl 3-methyl-4-piperidin-1-ylbenzoate | 20.6 mmol, 4.8 g, 1 eq. | CC=1C=C(C(=O)OC)C=CC1N1CCCCC1 | C14H19NO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 3-Methyl-4-piperidin-1-ylbenzoic acid | 4.0 g, 89% | CC=1C=C(C(=O)O)C=CC1N1CCCCC1 | C13H17NO2
